US03968117
1,2,6-Trimethyl-4-[4-(3-isopropylamino-2-hydroxypropoxy)-phenyl]-1,4-dihydropyridine-3,5-dicarboxylic acid dimethyl ester. ##SPC11##
Eleven grams of 1,2,6-trimethyl-4-[4-(2,3-epoxypropoxy)-phenyl]-1,4-dihydropyridine-3,5-dicarboxylic acid dimethyl ester (melting point 126°), 3 g of isopropylamine and 40 ml of alcohol are heated at reflux overnight, concentrated in vacuo and treated with acetone. The product precipitates as the hydrochloride salt, white crystals of melting point 211°-212°C, in a yield of 90% of theory.

reactant | 1,2,6-trimethyl-4-[4-(2,3-epoxypropoxy)-phenyl]-1,4-dihydropyridine-3,5-dicarboxylic acid dimethyl ester | Eleven grams | COC(=O)C1=C(N(C(=C(C1C1=CC=C(C=C1)OCC1CO1)C(=O)OC)C)C)C | C21H25NO6
reactant | isopropylamine | 3 g | C(C)(C)N | C3H9N
product | 1,2,6-Trimethyl-4-[4-(3-isopropylamino-2-hydroxypropoxy)-phenyl]-1,4-dihydropyridine-3,5-dicarboxylic acid dimethyl ester | yield of 90% | COC(=O)C1=C(N(C(=C(C1C1=CC=C(C=C1)OCC(CNC(C)C)O)C(=O)OC)C)C)C | C24H34N2O6
